US04596816
60% Suspension of sodium hydride (1.08 g) in oil was added portionwise to a solution of ethyl 2-chloroacetoacetate (4.4 g) in N,N-dimethylformamide (70 ml) under stirring and ice-cooling. After stirring for 10 minutes, a solution of 5-bromomethyl-4-(4-chlorophenyl)-2-methyloxazole (7.0 g) in N,N-dimethylformamide (10 ml) was added dropwise under ice-cooling to the mixture. The mixture was stirred under ice-cooling for 30 minutes, and then diluted with ice-water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off. The residue was dissolved in ethanol (40 ml), added to an aqueous 2N sodium hydroxide solution (40 ml) under stirring and ice-cooling, and stirred for further 30 minutes. The solution was then diluted with water, washed with ethyl ether and the aqueous layer was adjusted to pH 2 with 2N hydrochloric acid to give crystals of 2-chloro-3-[4-(4-chlorophenyl)-2-methyl- 5-oxazolyl]propionic acid, yield 5.9 g (80.4 %). Recrystallization from methanol gave colorless prisms, m.p. 208°-209° C.

reactant | sodium hydride | 1.08 g | [H-].[Na+]
reactant | ethyl 2-chloroacetoacetate | 4.4 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | 5-bromomethyl-4-(4-chlorophenyl)-2-methyloxazole | 7.0 g | BrCC1=C(N=C(O1)C)C1=CC=C(C=C1)Cl | C11H9BrClNO
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-chloro-3-[4-(4-chlorophenyl)-2-methyl- 5-oxazolyl]propionic acid | ClC(C(=O)O)CC1=C(N=C(O1)C)C1=CC=C(C=C1)Cl | C13H11Cl2NO3
